US05258399
A solution of p-methyl-N-methylaniline (5.00 g) and triethylamine (5.05 g) in dichloromethane (140 ml) was cooled to 0° C. and methanesulphonyl chloride (4.73 g) was added dropwise. The reaction mixture was stirred at ambient temperature for 2 hours and quenched with water (100 ml). The organic phase was washed with 2N aqueous hydrochloric acid solution (75 ml) and 2N aqueous sodium hydroxide solution (75 ml), dried (MGSO ) and the solvent removed by evaporation. Thus was obtained N-methyl-(4-tolyl)methanesulphonamide (5.3 g, 65%), m.p. 49°-52° C.

reactant | p-methyl-N-methylaniline | 5.00 g | CC1=CC=C(NC)C=C1 | C8H11N
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 4.73 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | N-methyl-(4-tolyl)methanesulphonamide | 5.3 g, 65% | CNS(=O)(=O)CC1=CC=C(C=C1)C | C9H13NO2S
